*dynamic nand
.include 'cmos.txt'
.option post
Vg G 0 pulse(0 5 1u 1u 1u 20u 40u)
Vs S 0 5
Va A 0 pulse(0 5 1u 1u 1u 10u 30u)
Vb B 0 5
m1 D G S S P_1u w=30u l=1u
m2 D A K K N_1u w=30u l=1u
m3 K B M M N_1u w=30u l=1u
m4 M G 0 0 N_1u w=30u l=1u
C D 0 120p
.tran 0 100u
.plot V(D) V(A) V(B) V(G)
.end
